US04264595
(2) 1(2-Hydroxyethyl)-1H-tetrazole-5-thiol
1-Benzyloxycarbonylmethyl-1H-tetrazole-5-thiol was reduced with lithium aluminum hydride-tetrahydrofuran. m.p. 137°-139° C.

reactant | 1-Benzyloxycarbonylmethyl-1H-tetrazole-5-thiol | C(C1=CC=CC=C1)OC(=O)CN1N=NN=C1S | C10H10N4O2S
reactant | lithium aluminum hydride tetrahydrofuran | [H-].[Al+3].[Li+].[H-].[H-].[H-].O1CCCC1
product | 1(2-Hydroxyethyl)-1H-tetrazole-5-thiol | OCCN1N=NN=C1S | C3H6N4OS
